US07820654B2
A sample of 1-{4-[4-(4-hydroxy-piperidin-1-yl)-6-phenyl-pyrimidin-2-ylamino]-phenyl}-ethanone hydrochloride was prepared from compound 1-(2-chloro-6-phenyl-pyrimidin-4-yl)-piperidin-4-ol (0.3 g, 1.04 mmol) and 1-(4-amino-phenyl)-ethanone (0.14 g, 1.04 mmol) according to a procedure analogous to that described above in Example 48.

reactant | 1-(2-chloro-6-phenyl-pyrimidin-4-yl)-piperidin-4-ol | 1.04 mmol, 0.3 g | ClC1=NC(=CC(=N1)N1CCC(CC1)O)C1=CC=CC=C1 | C15H16ClN3O
reactant | 1-(4-amino-phenyl)-ethanone | 1.04 mmol, 0.14 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
product | 1-{4-[4-(4-hydroxy-piperidin-1-yl)-6-phenyl-pyrimidin-2-ylamino]-phenyl}-ethanone hydrochloride | Cl.OC1CCN(CC1)C1=NC(=NC(=C1)C1=CC=CC=C1)NC1=CC=C(C=C1)C(C)=O | InChI=1S/C23H24N4O2.ClH/c1-16(28)17-7-9-19(10-8-17)24-23-25-21(18-5-3-2-4-6-18)15-22(26-23)27-13-11-20(29)12-14-27;/h2-10,15,20,29H,11-14H2,1H3,(H,24,25,26);1H
